US04867915
14.55 ml (6.79 g, 50.9 mmol) of a 3.5N solution of ethylmagnesium bromide in ether was added dropwise, under argon to a cold (0°-5° C.) solution of 7.82 g (53 mmol) of 3-(methylphenoxy)-1-propyne (C.A. 82, 155636 d) in 150 ml of anhydrous tetrahydrofuran at such a rate to maintain the temperature at 0° C.Thereafter, the reaction mixture was stirred for 1 hour further at 0°-5° C. Then, 246 mg of cuprous cyanide was added. After stirring 20 minutes more, a solution of 4 g (25.4 mmol) of 1-bromo-2,5-hexadiyne in 25 ml of anhydrous tetrahydrofuran was added dropwise, maintaining the temperature between 0°-5° C. The mixture was stirred at room temperature for 3 additional hours, and pouredinto 200 ml of 1N sulfuric acid and ice. After extraction with ether (3×100 ml) the combined organic extracts were concentrated in vacuo to a small volume, and washed several times with EDTA, to remove the copper salts, and then with water, dried over sodium sulfate and evaporated. The crude material was purified by column chromatography on 250 g of silica gel, using hexane as eluant, to yield 9-(m-methylphenoxy)-1,4,7-nonatriyne, as an oil. The product was stored indry ice.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 3-(methylphenoxy)-1-propyne | 53 mmol, 7.82 g | CC1=C(OCC#C)C=CC=C1 | C10H10O
reactant | 1-bromo-2,5-hexadiyne | 25.4 mmol, 4 g | BrCC#CCC#C | C6H5Br
reactant | sulfuric acid | 1N, 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 9-(m-methylphenoxy)-1,4,7-nonatriyne | CC=1C=C(OCC#CCC#CCC#C)C=CC1 | C16H14O
